US05532248
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(m-carbomethoxybenzyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,-25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(m-carboxybenzyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (7 mg) in methylene chloride:methanol (2:1, 0.75 mL) at 0° C. was added a methylene chloride solution of trimethylsilyldiazomethane (10% by weight) until a yellow colored persisted. The mixture was then warmed to room temperature, concentrated in vacuo, and purified by flash chromatography on silica gel (acetone:hexane (1:2)) to give the title compound (5.5 mg).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(m-carboxybenzyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 7 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC2=CC(=CC=C2)C(=O)O)OC)C)C)O)=O | C51H75NO14
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methylene chloride methanol | 0.75 mL | C(Cl)Cl.CO
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(m-carbomethoxybenzyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,-25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 5.5 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC2=CC(=CC=C2)C(=O)OC)OC)C)C)O)=O | C52H77NO14
